US04358611
To a solution of 21.35 g of 2,4-dichlorophenylhydrazine hydrochloride in 100 ml of pyridine was added dropwise at 0° C. with stirring 23.1 g of trifluoroacetic anhydride. After one hour at ambient temperature, the reaction mixture was poured into ice water and extracted with ether. The etheral layer was washed with cold 5% hydrochloric acid, dried and concentrated to dryness. Recrystallization from hexane gave 19.2 g (70%) of trifluoroacetic acid, 2-(2,4-dichlorophenyl)hydrazide as a white crystalline solid; melting point 127°-128° C.

reactant | 2,4-dichlorophenylhydrazine hydrochloride | 21.35 g | Cl.ClC1=C(C=CC(=C1)Cl)NN
reactant | trifluoroacetic anhydride | 23.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | trifluoroacetic acid, 2-(2,4-dichlorophenyl)hydrazide | 19.2 g, 70% | ClC1=C(C=CC(=C1)Cl)NNC(C(F)(F)F)=O | C8H5Cl2F3N2O
